US06479486B2
A suspension of 3-hydroxy-2-phenylpyridine (20 g, 116 mmol) in toluene (250 ml) was heated at reflux for 30 minutes. Benzyl bromide (20 ml) was added and the reaction mixture was heated at reflux for 6 hours then cooled using an ice bath. The solid residue was collected by filtration and washed twice with ether to give crude N-benzyl-3-hydroxy-2-phenylpyridinium bromide (36.5 g, 91%) which was used in the next step without further purification.

reactant | 3-hydroxy-2-phenylpyridine | 116 mmol, 20 g | OC=1C(=NC=CC1)C1=CC=CC=C1 | C11H9NO
reactant | Benzyl bromide | 20 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-3-hydroxy-2-phenylpyridinium bromide | 36.5 g, 91% | [Br-].C(C1=CC=CC=C1)[N+]1=C(C(=CC=C1)O)C1=CC=CC=C1 | InChI=1S/C18H15NO.BrH/c20-17-12-7-13-19(14-15-8-3-1-4-9-15)18(17)16-10-5-2-6-11-16;/h1-13H,14H2;1H
